US05635527
Thionyl chloride (8 ml, 110 mmol) was added to 5-cyano-2-benzofurancarboxylic acid (1.00 g, 5.34 mmol) and the mixture was refluxed under heating for 30 minutes. Thionyl chloride was distilled away under reduced pressure and toluene (3 ml) was added which was again distilled away under reduced pressure to give 5-cyano-2-benzofurancarbonyl chloride. This was dissolved in toluene (20 ml) and pyridine (0.86 ml, 10.7 mmol), 4-dimethylaminopyridine (131 mg, 1.07 mmol) and t-butyl 4-hydroxycyclohexylacetate (1.35 g, 5.88 mmol) were added. The mixture was refluxed under heating for one hour. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=10/1-5/1) to give 1.12 g of t-butyl [4-[(5-cyano-2-benzofuranyl)carbonyloxy]cyclohexyloxy]acetate as a colorless solid (52%).

reactant | Thionyl chloride | 110 mmol, 8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-cyano-2-benzofurancarboxylic acid | 5.34 mmol, 1.00 g | C(#N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H5NO3
product | 5-cyano-2-benzofurancarbonyl chloride | C(#N)C=1C=CC2=C(C=C(O2)C(=O)Cl)C1 | C10H4ClNO2
